US09255110B2
Sodium hydride (60% suspension in mineral oil, 1.60 mmol) was added to a mixture of tert-butyl ethyl malonate (300 mg) in 1-methyl-2-pyrrolidinone (3 mL) and was followed by 1,5-dichloro-2,4-dinitrobenzene (0.45 g). The reaction mixture was stirred for 15 minutes and was then quenched by addition of a diluted aqueous solution of hydrochloric acid. The resulting mixture was extracted with ethyl acetate; the combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (EtOAc/hexane, 5/95 to 15/85) to give 0.4 g of 2-(5-chloro-2,4-dinitro-phenyl)-malonic acid tert-butyl ester ethyl ester.

reactant | Sodium hydride | 1.60 mmol | [H-].[Na+]
reactant | tert-butyl ethyl malonate | 300 mg | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | 1,5-dichloro-2,4-dinitrobenzene | 0.45 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C6H2Cl2N2O4
solvent | 1-methyl-2-pyrrolidinone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(5-chloro-2,4-dinitro-phenyl)-malonic acid tert-butyl ester ethyl ester | 0.4 g | C(C)OC(C(C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)Cl)[N+](=O)[O-])[N+](=O)[O-])=O | C15H17ClN2O8
